US08633190B2
Step 1: 3-Oxo-cyclohexanecarboxylic acid ethyl ester
To a round bottom flask was added 3-oxo-1-cyclohexanecarboxylic acid (3.85 g, 27.1 mmol), ethanol (7.91 mL), p-toluenesulfonic acid (0.097 g, 0.56 mmol) and toluene (65.9 mL). The mixture was refluxed with Dean-star trap overnight. The reaction mixture was cooled down and concentrated under reduced pressure to afford 4.61 g (100%) of the title compound, 3-oxo-cyclohexanecarboxylic acid ethyl ester, as a yellow oil, which was used in the next step without further purification.

reactant | 3-oxo-1-cyclohexanecarboxylic acid | 27.1 mmol, 3.85 g | O=C1CC(CCC1)C(=O)O | C7H10O3
reactant | ethanol | 7.91 mL | C(C)O | C2H6O
reactant | p-toluenesulfonic acid | 0.56 mmol, 0.097 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 65.9 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Oxo-cyclohexanecarboxylic acid ethyl ester | 4.61 g, 100% | C(C)OC(=O)C1CC(CCC1)=O | C9H14O3
